US09079866B2
5-(2′-{[(4-Aminopiperidin-1-yl)sulfonyl]methyl}-3-fluorobiphenyl-4-yl)pyrazin-2-amine hydrochloride
A mixture of tert-butyl 1-((4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yl)methylsulfonyl)piperidin-4-ylcarbamate (190 mg, 0.35 mmol) in HCl (20 mL, 6 N in methanol) was stirred at rt for 24 hours. The solvent was removed under reduced pressure and the residue purified by HPLC to give the title compound (80 mg HCl salt, 61%). MS (ESI): mass calcd. for C22H24FN5O2S, 441.16; m/z found, 442.1 [M+H]+. 1H NMR (300 MHz, DMSO-d6) δ 8.38 (s, 1H), 8.10 (br, 4H), 7.95 (m, 1H), 7.64-7.55 (m, 1H), 7.52-7.32 (m, 4H), 4.80 (br, 4H), 4.37 (s, 2H), 3.50 (d, J=13.0, 2H), 3.10 (s, 1H), 2.76 (t, J=12.6, 2H), 1.91 (d, J=11.0, 3H), 1.58-1.41 (m, 2H).

reactant | tert-butyl 1-((4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yl)methylsulfonyl)piperidin-4-ylcarbamate | 0.35 mmol, 190 mg | NC=1N=CC(=NC1)C1=CC=C(C=C1F)C1=C(C=CC=C1)CS(=O)(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C27H32FN5O4S
reactant | HCl | 6 N, 20 mL | Cl | ClH
product | 5-(2′-{[(4-Aminopiperidin-1-yl)sulfonyl]methyl}-3-fluorobiphenyl-4-yl)pyrazin-2-amine hydrochloride | 80 mg, 61% | Cl.NC1CCN(CC1)S(=O)(=O)CC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | InChI=1S/C22H24FN5O2S.ClH/c23-20-11-15(5-6-19(20)21-12-27-22(25)13-26-21)18-4-2-1-3-16(18)14-31(29,30)28-9-7-17(24)8-10-28;/h1-6,11-13,17H,7-10,14,24H2,(H2,25,27);1H
